US07091214B2
4-Chloro-3-nitro-7-phenylquinoline (6.0 g, 21 mmol) was treated with 2-phenoxyethylamine (3.18 g, 23.2 mmol) according to the method described in Part A of Examples 125–135. The crude solid was triturated with water (100 mL), isolated by filtration, sonicated with diethyl ether, isolated by filtration, and dried for two hours in a vacuum oven at 40° C. to provide 8.12 g of (3-nitro-7-phenylquinolin-4-yl)-(2-phenoxyethyl)amine as a yellow solid.

reactant | 4-Chloro-3-nitro-7-phenylquinoline | 21 mmol, 6.0 g | ClC1=C(C=NC2=CC(=CC=C12)C1=CC=CC=C1)[N+](=O)[O-] | C15H9ClN2O2
reactant | 2-phenoxyethylamine | 23.2 mmol, 3.18 g | O(C1=CC=CC=C1)CCN | C8H11NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | (3-nitro-7-phenylquinolin-4-yl)-(2-phenoxyethyl)amine | 8.12 g | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1NCCOC1=CC=CC=C1)C1=CC=CC=C1 | C23H19N3O3
